Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfite
 
Attending: ___.
 
Chief Complaint:
Pancreatic adenocarcinoma - need for post ERCP monitoring
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
CC: ___ of the Pancreas
 
HPI: The patient is a ___ y/o F with PHMx of breast CA, who was
found on MRCP to have a mass in the head of the pancreas with
intra and extrahepatic biliary duct dilation, with biopsy proven
adenocarcinoma of pancreas via EUS, who is being admitted
following ERCP with sphincterotomy and placement of fully 
covered
metal bile duct stent for biliary stricture. She is being
admitted for post ERCP monitoring.

On arrival to the floor, the patient reports 6 months of weight
loss, LOA, and regurgitation (for which she takes a PPI). She
reports losing 25 pounds over the past 6 months. She states 
that,
as work up for this, she underwent imaging which showed a
pancreatic mass. She underwent biopsy of this mass last week via
EUS but is not yet aware of the biopsy results. She reports 
that,
since her biopsy, she has been feeling well at home. Her 
appetite
has been improved since she was started on Creon with meals. She
denies any new abdominal pain or N/V since her EUS. She does
report that she has hernia pain, which is chronic.

Otherwise, ROS is positive for some intermittent sinus 
congestion
and cough, for which she takes Flonase. She also endorses yellow
stools but no diarrhea.

ROS: As above. Denies F/C, headache, lightheadedness, dizziness,
sore throat, chest pain, heart palpitations, shortness of 
breath,
nausea, vomiting, diarrhea, constipation, urinary symptoms,
muscle or joint pains, skin rash. The remainder of the ROS was
negative.

 
Past Medical History:
Positive PPD 
Hypercholesterolemia 
Obesity 
Invasive ductal carcinoma of breast 
Benign hypertension with CKD (chronic kidney disease) stage III 
CKD (chronic kidney disease), stage III 
Malignant neoplasm of breast  
Thyroid nodule 
Pulmonary nodules 
Pulmonary hypertension 
Pancreatic insufficiency 
Pancreatic mass 

 
Social History:
___
Family History:
FAMILY HISTORY: Mother with breast CA. Cousin with pancreatic 
CA.

 
Physical Exam:
PHYSICAL EXAM: 
VS - ___ Temp: 98.1 PO BP: 133/72 HR: 64 RR: 18 O2 
sat:
98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN - Alert, NAD
HEENT - NC/AT, face symmetric, MMM
NECK - Supple, no cervical or supraclavicular LAD
CV - RRR, no m/r/g
RESP - CTA B, breathing appears comfortable
ABD - S/NT/ND, BS present, no HSM appreciated
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes
NEURO - ___ strength in all 4 extremities
PSYCH - Calm, appropriate

LABS/IMAGING: Reviewed in ___. No new labs.

ERCP report reviewed.

 
Pertinent Results:
___ 05:15AM BLOOD WBC-4.4 RBC-4.02 Hgb-11.5 Hct-35.5 MCV-88 
MCH-28.6 MCHC-32.4 RDW-14.1 RDWSD-45.3 Plt ___
___ 05:15AM BLOOD Glucose-81 UreaN-13 Creat-0.7 Na-142 
K-3.6 Cl-103 HCO3-25 AnGap-14
___ 05:15AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.6

Pancreas Biopsy Path
Pancreas, biopsy:
- Adenocarcinoma, see note.
Note: Additional immunohistochemical stains were performed to 
rule out secondary involvement
bythe patient's known prior mammary primary. The carcinoma is 
negative for ER, mammaglobin and
GCDFP-15 while rare cells exhibit weak staining with GATA-3. The 
morphology and immunoprofile
support a pancreaticobiliary primary.

ERCP

Mid CBD stricture
Upstream dilation noted 
Metal stent placed
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ y/o F with PHMx of breast CA, who was 
found
on MRCP to have a mass in the head of the pancreas with intra 
and
extrahepatic biliary duct dilation, with biopsy proven
adenocarcinoma of pancreas via EUS, who is being admitted
following ERCP with sphincterotomy and placement of fully 
covered
metal bile duct stent for biliary stricture. She is being
admitted for post ERCP monitoring.
She tolerated procedure well, labs normal after procedure, diet 
advanced without difficulty.  She will complete a five day 
course of ciprofloxacin.  

# PANCREATIC MASS
# BILIARY STRICTURE
The patient was recently found to have pancreatic mass in the
setting of evaluation for weight loss. She underwent EUS 
recently
with biopsy confirming pancreatic adenocarcinoma.
I discussed this result with her in the presence of her 
daughter, Dr ___.  I also discussed the result with 
covering ___ oncology, and all parties in agreement that she 
will f/u with Dr ___, ___ oncology, to go over next 
steps.

# GERD: continue PPI

# HTN/HLD: Pt no longer on any medications.

# CKD III: Trend Cr, renally dose medications.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen Dose is Unknown  PO Frequency is Unknown 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Creon (lipase-protease-amylase) ___ unit 
oral 2 capsules TID with meals 
4. Omeprazole 20 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Desonide 0.05% Cream 1 Appl TP AS DIRECTED 
7. Calcium with Vitamin D (calcium carbonate-vitamin D3) 1250 mg 
oral BID 
8. Ascorbic Acid Dose is Unknown  PO Frequency is Unknown 
9. cod liver oil 0 mg oral unknown 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID  
2.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  cod liver oil 1 mg oral Frequency is Unknown  
5.  Calcium with Vitamin D (calcium carbonate-vitamin D3) 1250 
mg oral BID  
6.  Creon (lipase-protease-amylase) ___ unit 
oral 2 capsules TID with meals  
7.  Desonide 0.05% Cream 1 Appl TP AS DIRECTED  
8.  Fish Oil (Omega 3) 1000 mg PO DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
10.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Pancreatic adenocarcinoma. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for a procedure called an ERCP.  You had a 
stent placed.  The biopsy of your pancreas lesion shows 
adenocarcinoma, or a type of cancer.  You will have followup 
with Dr ___ at ___ to discuss your prognosis, staging and 
possible options for you. 
Please take the antibiotic ciprofloxacin for four more days to 
prevent an infection.  Please avoid medicines such as aspirin, 
ibuprofen for the next five days to avoid bleeding at the site 
of your stent.  
 
Followup Instructions:
___